US05972965
To a solution of D-pyroglutamic acid (30 g) in CH2Cl2 (200 ml) were added benzoin (74 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (68 ml) and 4-dimethylaminopyridine (30 g) at room temperature under N2. After being stirred for 12 hours at room temperature, the solvent was evaporated in vacuo, and the residue was partitioned between ethyl acetate and water. The organic layer was washed with 1N-HCl solution, sat. NaHCO3 and brine, dried over MgSO4, and evaporated in vacuo. The obtained compound and ammonium acetate (60 g) were dissolved in acetic acid (500 ml) and the mixture was stirred for 4 hours at 100° C. After the solvent was removed, the residue was partitioned between ethyl acetate and water. The organic layer was washed with water, sat. NaHCO3 and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to give (5R)-5-(4,5-diphenyloxazol-2-yl)pyrrolidin-2-one (21.2 g). MS (m/z): 305 (M+ +1) IR (Neat): 3200, 1680, 1640 cm-1NMR (CDCl3, δ): 2.3-2.8 (4H, m), 4.8-5.0 (1H, m), 6.24 (1H, br s), 7.2-7.7 (10H, m)

reactant | D-pyroglutamic acid | 30 g | N1[C@H](CCC1=O)C(=O)O | C5H7NO3
reactant | benzoin | 74 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 68 ml | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 30 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (5R)-5-(4,5-diphenyloxazol-2-yl)pyrrolidin-2-one | 21.2 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@H]1CCC(N1)=O | C19H16N2O2
